data/specific_train_final.csv
"[CH3:1][C:2]([CH2:6][O:7][OH:8])([CH:3]=[CH:4][OH:5])[O:9][O:10][N:11]=[O:12]>>[CH3:1][C:2]([CH2:6][O:7][OH:8])([CH:3]=[CH:4][OH:5])[O:9].[N:11](=[O:12])[O:10] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"[H:4][C:3](=[O:5])[C:2]([CH3:1])([CH2:8][OH:9])[O:6][O:7]>>[H:4][O:7][O:6][C:2]([CH3:1])([CH2:8][OH:9])[C:3]=[O:5] 3,4-3;3,4-4,7;7-4,7",Room Temperature,Propagation,abstraction
"CC(C(C)[O:20][O:21][O])OC(=O)C.[N+](=O)[O]>>CC(C(C)OC(=O)C)[O:20].[N+](=O)[O].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)[C:21]1=[CH:20]C=CC=C1.[OH:10]>>CC(C)[C:21]1C=CC=C[CH:20]1[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(C)C[CH:10]C.[O:20][O]>>CCC(C)C[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](/C(=C\C(=O)O[O:10])/C)O>>[H:20][O:10]OC(=O)/C=C(/C)\[CH:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO[N+](=O)[O-])(C(CO)[O:20][O:21]N=O)O>>CC(CO[N+](=O)[O-])(C(CO)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[CH:10]C(C)O[N+](=O)[O-].[O:20][O]>>CC[CH:10](C(C)O[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][C:6]([CH3:8])([CH3:9])[O:5][O:4][O:3][N+:2](=[O:1])[O-:10]>>[CH3:7][C:6]([CH3:8])([CH3:9])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:10] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(CO[N+](=O)[O-])(C(C=O)O[O:10])O>>[H:20][O:10]OC(C=O)C(C)(CO[N+](=O)[O-])O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][CH:3]([C:2](=[CH:6][CH2:7][Cl:8])[CH3:1])[O:5].[O:9][O:10]>>[H:4][O:10][O:9].[CH3:1][C:2](=[CH:6][CH2:7][Cl:8])[CH:3]=[O:5] 10-10,4; 5-5,3; 3,4-5,3; 3,4-10,4",Room Temperature,Termination,abstraction
"[H:20][C:21]1(C=CC=C([C:22]1CC)C)O.[O:10][O]>>[H:20][O:10][O].CC[C:22]1=[C:21](C=CC=C1C)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][O:21][O].CC(O[O:10])(Cl)Cl>>[H:20][O:10]OC(C)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:15]>>[CH3:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:15] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CCCC[C:10]=O.[O:20][O]>>CCCC[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]C(C(C)(CO)OO)O[N+](=O)[O-].[O:10][O]>>[H:20][O:10][O].CC(CO)(C([CH:22]=[O:21])O[N+](=O)[O-])OO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCCC(CO)[O:20][O:21]N=O>>CCCCC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)[O:20][O:21]N=O>>CCC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:7][O:6][CH:3]([C:2](=[CH:8][CH2:9][O:10][O:11][H:12])[CH3:1])[O:4][O:5]>>[H:7][O:6][CH:3][C:2](=[CH:8][CH2:9][O:10][O:11][H:12])[CH3:1].[O:4][O:5] 3,4-4; 3,4-3",Room Temperature,Initiation,homolyze
"C(C(O[O:20])Cl)O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])Cl)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:6][C:5](=[CH:7][CH:8][OH:9])[CH2:4][O:3][N+:2](=[O:1])[O-:10]>>[CH3:6][C:5]([CH2:4][O:3][N+:2](=[O:1])[O-:10])[CH:7]=[CH:8][OH:9] 5,7-5; 5,7-7,8; 8-7,8",Room Temperature,Propagation,resonance
"[CH3:1][C:2](=[CH:8][C:9]=[O:10])[CH2:3][O:4][N+:5](=[O:7])[O-:6].[O:11][O:12]>>[CH3:1][C:2](=[CH:8][C:9](=[O:10])[O:11][O:12])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 11-11,9; 9-11,9",Room Temperature,Termination,recombine
"C[O:10][O:11][O:20][N+:21](=O)[O-]>>C[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][O:2][C:3](=[O:4])[O:5][CH2:6][O:7][O:8][O:9][N+:10](=[O:11])[O-:12]>>[CH3:1][O:2][C:3](=[O:4])[O:5][CH2:6][O:7][O:8][O:9].[N+:10](=[O:11])[O-:12] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"[CH2:7]([CH:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:10])[Cl:9])[Cl:8]>>[CH2:7]([CH:6]([O:5][O:4][O:3])[Cl:9])[Cl:8].[N+:2](=[O:1])[O-:10] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC(=C1)C)C.[OH:10]>>[H:20][OH:10].CC1=CC(=C(C=C1)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(O[N+](=O)[O-])Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(O[N+](=O)[O-])Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N:14](=[O:15])[O:13]>>[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"CC(C)CC(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)CC(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
